US04133814
Preparation of 2-(4-Hydroxyphenyl)-3-benzoyl-6-hydroxybenzothiophene-1-oxide.
A mixture of 1.0 gram (3.26 mmoles) of 2-(4-hydroxyphenyl)-3-benzoyl-6-hydroxybenzothiophene in 50 ml. of ethyl acetate was prepared and cooled to 0° C. The mixture was stirred, and 620 mg. (3.59 mmoles) of m-chloroperbenzoic acid were added. The mixture was stirred for one hour and then was allowed to stand overnight under refrigeration. The product was chromatographed rapidly over silica gel in a fritted glass funnel, elution being carried out with a 7:3 mixture of benzene and ethyl acetate followed by pure ethyl acetate to obtain 220 mg. (19 percent) of the title compound. Mass spectrum: Theory, 362; Found, 362.

reactant | 2-(4-hydroxyphenyl)-3-benzoyl-6-hydroxybenzothiophene | 3.26 mmoles, 1.0 gram | OC1=CC=C(C=C1)C=1SC2=C(C1C(C1=CC=CC=C1)=O)C=CC(=C2)O | C21H14O3S
reactant | m-chloroperbenzoic acid | 3.59 mmoles | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Hydroxyphenyl)-3-benzoyl-6-hydroxybenzothiophene-1-oxide | 19 percent | OC1=CC=C(C=C1)C=1S(C2=C(C1C(C1=CC=CC=C1)=O)C=CC(=C2)O)=O | C21H14O4S
